US07186718B2
(i) 3-Hydroxy-N-methylbenzamide
A mixture of 3-hydroxybenzoic acid (1.3 g, 9.4 mmol) and a ethanolic methylamine solution (33%, 1.5 ml, 12.1 mmol) were stirred at 60° C. for 48 h, then the solvent was evaporated in vacuo, and the residue redissolved in a small volume of ethanol. The product precipitated from the solution by the addition of ethyl acetate. The precipitate was collected by filtration and dried to give the subtitled compound (1.3 g, 91%).

reactant | 3-hydroxybenzoic acid | 9.4 mmol, 1.3 g | OC=1C=C(C(=O)O)C=CC1 | C7H6O3
reactant | methylamine | 12.1 mmol, 1.5 ml | CN | CH5N
product | 3-Hydroxy-N-methylbenzamide | 1.3 g, 91% | OC=1C=C(C(=O)NC)C=CC1 | C8H9NO2
